US05714479
6-(2-Trimethylsilylethoxymethoxymethyl)-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-carboxylic acid methyl ester was subjected to alkaline hydrolysis in methanol to give 6-(2-trimethylsilylethoxymethoxymethyl)-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-2-carboxylic acid.

reactant | 6-(2-Trimethylsilylethoxymethoxymethyl)-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1C(=O)C1=CC2=C(C=C1)OCO2)COCOCC[Si](C)(C)C | C22H27NO7Si
solvent | methanol | CO | CH4O
product | 6-(2-trimethylsilylethoxymethoxymethyl)-3-(3,4-methylenedioxyphenylcarbonyl)pyridine-2-carboxylic acid | C[Si](CCOCOCC1=CC=C(C(=N1)C(=O)O)C(=O)C1=CC2=C(C=C1)OCO2)(C)C | C21H25NO7Si
